US07094902B2
Synthesis of 2,5-Dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide
Under a blanket of nitrogen, 8.8 g (0.087 mol) 2,4-dichlorobenzoyl chloride was added to a solution of 23.0 g (0.087 mol) 4-octoxybenzoyl hydrazine and 12.13 ml (8.8 g, 0.087 mol) freshly distilled triethylamine in 348 ml dry chloroform. After about one hour of stirring a dense white precipitate of the required product was formed. Stirring was continued until the next day. The product was collected by filtration and recrystallized from ethanol/water to give 31 g (81.5% yield) of 2,5-dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide as a white solid.

reactant | 2,4-dichlorobenzoyl chloride | 0.087 mol, 8.8 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 4-octoxybenzoyl hydrazine | 0.087 mol, 23.0 g | C(CCCCCCC)OC1=CC=C(C(=O)NN)C=C1 | C15H24N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloroform | 348 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,5-Dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide | ClC1=C(C(=O)NNC(C2=CC=C(C=C2)OCCCCCCCC)=O)C=C(C=C1)Cl | C22H26Cl2N2O3
